US04990683
4-Azido-3-hydroxybutyronitrile
A mixture of 48 g (0.40 mole) of 4-chloro-3-hydroxybutyronitrile, 52 g (0.080 mole) of sodium azide, 4.8 g of tetra-n-butylammonium bromide, 250 ml of chloroform and 100 ml of water was stirred while heating under reflux for 32 hr. The organic layer was separated and set aside. The aqueous layer was saturated with 4.8 g of potassium carbonate and then extracted three times with methylene chloride. The methylene chloride extracts were combined with the above organic layer and the solution was dried over anhydrous sodium sulfate and the mixture was filtered. The filtrate was evaporated to give a brown oil weighing 49.46 g, a 98% yield based on the crude. Proton NMR showed signals for the desired product and a small amount of tetra-n-butylammonium salt: (CDCl3, ppm): 7.20 (singlet, chloroform), 4.35 to 3.90 (pentet, methine proton of product), 3.85 (singlet, hydroxyl proton of product), 3.45 (doublet, methylene protons next to the azide group of the product), 2.60 (doublet, methylene protons next to the cyano group of the product), 3.25 to 2.85 and 1.90 to 0.80 (multiplets, signals from about 4% of tetra-n-butylammonium salt).

reactant | 4-chloro-3-hydroxybutyronitrile | 0.40 mole, 48 g | ClCC(CC#N)O | C4H6ClNO
reactant | sodium azide | 0.080 mole, 52 g | [N-]=[N+]=[N-].[Na+]
reactant | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | tetra-n-butylammonium bromide | 4.8 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 100 ml | O | H2O
product | 4-Azido-3-hydroxybutyronitrile | 98% yield | N(=[N+]=[N-])CC(CC#N)O | C4H6N4O
